US05736568
2-Methoxybenzyl bromide [J.Med. Chem., 32, 1761 (1989)] was reacted with N-methylethanolamine as described in the three previous examples to give N-(2-methoxybenzyl)-N-methylethanolamine which was reacted with 3-chloro-2-(dimethylaminomethyl)phenol in a similar manner to Example 1 (except that conversion into the dihydrochloride salt was omitted) to give the title compound b.p. 100° C. at 0.01 mbar.

reactant | 2-Methoxybenzyl bromide | COC1=C(CBr)C=CC=C1 | C8H9BrO
reactant | N-methylethanolamine | CNCCO | C3H9NO
product | N-(2-methoxybenzyl)-N-methylethanolamine | COC1=C(CN(CCO)C)C=CC=C1 | C11H17NO2
